US05108485
Preparation of Dimethyl 1-methyl-1H-benzotriazole-4,5 dicarboxylate
A stirred solution of dimethyl 1H-benzotriazole-4,5-dicarboxylate (10.1 g, 43 mmol) in dimethylformamide is treated portion-wise, with cooling, with sodium hydride. When gas evolution has ceased, the reaction mixture is treated dropwise with iodomethane (6.7 g, 46 mmol) stirred at room temperature for 2 hours, concentrated in vacuo and diluted with a mixture of chloroform and water. The layers are separated; the organic layer is washed with brine, dried over MgSO4 and concentrated in vacuo to give a residue. The residue is chromatographed using silica gel and 35% ethyl acetate in hexanes to give the title product as a white solid, 3.15 g, mp 146°-147° C. The structure is determined by NMR NOE experiments.

reactant | dimethyl 1H-benzotriazole-4,5-dicarboxylate | 43 mmol, 10.1 g | N1N=NC=2C1=CC=C(C2C(=O)OC)C(=O)OC | C10H9N3O4
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 46 mmol, 6.7 g | IC | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Dimethyl 1-methyl-1H-benzotriazole-4,5 dicarboxylate | CN1N=NC=2C1=CC=C(C2C(=O)OC)C(=O)OC | C11H11N3O4
